US09399640B2
Step 3. 4-[3,4-Diamino-2-(cyclopropylmethoxy)phenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one
A suspension of 4-[4-amino-2-(cyclopropylmethoxy)-3-nitrophenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one (0.119 g, 0.234 mmol) in ethyl acetate (1.2 mL) and methanol (1.2 mL) was treated with saturated aqueous ammonium chloride solution (0.274 mL, 4.09 mmol). The mixture was cooled to 0° C., treated with zinc (0.122 g, 1.87 mmol) in two portions over 5 min, stirred at RT for 30 min and heated at 55° C. for 1 h. The reaction mixture was diluted with dichloromethane, filtered through a Celite pad, and the solids were washed with dichloromethane. The filtrate was concentrated to give a residue. The residue was dissolved in dichloromethane (30 mL), washed with saturated sodium bicarbonate solution (20 mL), dried with sodium sulfate, filtered, and concentrated to give the desired product that was used without further purification. LCMS calculated for C25H27N4O4S (M+H)+: m/z=479.2. found: 479.1.

reactant | 4-[4-amino-2-(cyclopropylmethoxy)-3-nitrophenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | 0.234 mmol, 0.119 g | NC1=C(C(=C(C=C1)C=1C2=C(C(N(C1)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)OCC2CC2)[N+](=O)[O-] | C25H24N4O6S
reactant | ammonium chloride | 4.09 mmol, 0.274 mL | [Cl-].[NH4+]
solvent | ethyl acetate | 1.2 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1.2 mL | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
catalyst | zinc | 1.87 mmol, 0.122 g | [Zn] | Zn
product | 4-[3,4-Diamino-2-(cyclopropylmethoxy)phenyl]-6-methyl-1-[(4-methylphenyl)sulfonyl]-1,6-dihydro-7H-pyrrolo[2,3-c]pyridin-7-one | NC=1C(=C(C=CC1N)C=1C2=C(C(N(C1)C)=O)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)OCC2CC2 | C25H26N4O4S
